US07951811B2
Under N2 atmosphere, to a mixture of 1-(4-methoxy-2,6-dimethyl-phenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-ol (1.5 g), triethylamine (1.0 g) in CHCl3 (9 mL), trifluoromethanesulfonic anhydride (1.0 mL) was added with cooling in an ice bath and the mixture was stirred for 30 minutes. The reaction was quenched with water and the mixture was extracted with CHCl3. The organic phase was washed with saturated aqueous NaHCO3 solution, dried over anhydrous MgSO4 and filtered. The filtrate was concentrated under reduced pressure to obtain crude trifluoromethanesulfonic acid 1-(4-methoxy-2,6-dimethylphenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-yl ester (2.19 g). This material was used in the next step without further purification.

reactant | 1-(4-methoxy-2,6-dimethyl-phenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-ol | 1.5 g | COC1=CC(=C(C(=C1)C)N1C=C(C2=C1N=C(C=C2O)C)C)C | C18H20N2O2
reactant | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 1.0 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CHCl3 | 9 mL | C(Cl)(Cl)Cl | CHCl3
product | trifluoromethanesulfonic acid 1-(4-methoxy-2,6-dimethylphenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-yl ester | 2.19 g | COC1=CC(=C(C(=C1)C)N1C=C(C=2C1=NC(=CC2OS(=O)(=O)C(F)(F)F)C)C)C | C19H19F3N2O4S
